US08071584B2
5-Bromo-3-(1,1-dioxidotetrahydro-2H-thiopyran-4-yl)-1H-indole-7-carboxylic acid
A solution of 6 M NaOH (12 mL, 72.0 mmol) was added to a suspension of 1-(1,1-dimethylethyl) 7-methyl 5-bromo-3-(1,1-dioxidotetrahydro-2H-thiopyran-4-yl)-1H-indole-1,7-dicarboxylate (0.93 g, 1.912 mmol) and 1-(1,1-dimethylethyl) 7-ethyl 5-bromo-3-(1,1-dioxidotetrahydro-2H-thiopyran-4-yl)-1H-indole-1,7-dicarboxylate (3.08 g, 6.16 mmol) in MeOH (50 mL) and water (25 mL) in a 250 mL round bottomed flask fitted with a reflux condenser. The reaction was heated at 85° C. (bath temp) for 1.5 h. The MeOH was removed by rotovap, and a solution of 6 M HCl was added until the mixture had attained a pH of ˜1 by pH paper. The yellow solid was filtered off, and the filtrate was extracted with EtOAc (3×10 mL). The combined organic layers were dried (Na2SO4) and concentrated under reduced pressure, and the residue was combined with the precipitate from the filtration and dried under house vacuum at 45° C. overnight. Recovered 2.98 g (86%) of the title compound.

reactant | NaOH | 72.0 mmol, 6 M, 12 mL | [OH-].[Na+]
reactant | 1-(1,1-dimethylethyl) 7-methyl 5-bromo-3-(1,1-dioxidotetrahydro-2H-thiopyran-4-yl)-1H-indole-1,7-dicarboxylate | 1.912 mmol, 0.93 g | BrC=1C=C2C(=CN(C2=C(C1)C(=O)OC)C(=O)OC(C)(C)C)C1CCS(CC1)(=O)=O | C20H24BrNO6S
reactant | 1-(1,1-dimethylethyl) 7-ethyl 5-bromo-3-(1,1-dioxidotetrahydro-2H-thiopyran-4-yl)-1H-indole-1,7-dicarboxylate | 6.16 mmol, 3.08 g | BrC=1C=C2C(=CN(C2=C(C1)C(=O)OCC)C(=O)OC(C)(C)C)C1CCS(CC1)(=O)=O | C21H26BrNO6S
solvent | MeOH | 50 mL | CO | CH4O
solvent | water | 25 mL | O | H2O
product | 5-Bromo-3-(1,1-dioxidotetrahydro-2H-thiopyran-4-yl)-1H-indole-7-carboxylic acid | BrC=1C=C2C(=CNC2=C(C1)C(=O)O)C1CCS(CC1)(=O)=O | C14H14BrNO4S
